US06593330B2
Step 1: 2-Chloro-6-[1-(2-methoxyphenyl)ethoxy]pyrazine
K-t-BuO (0.67 g, 5.97 mmol) was added to a stirred solution of 1-(2-methoxyphenyl)ethanol (0.96 g, 6.28 mmol) in dioxane (15 mL) at 0° C. (ice-bath). After 5 min of stirring at room temperature, the reaction mixture was chilled to 0° C. (ice-bath) and 2,6-dichloropyrazine (0.78 g, 5.23 mmol) was added whereupon the reaction mixture turned yellow. After being stirred for 35 min, dichloromethane and K2CO3 were added and the mixture was filtered. Concentration in vacuo furnished a yellow oil that was purified by silica gel chromatography (15×4 cm) using n-hexane ethyl acetate (8:2) as eluent. This gave 1.21 g (92%) of the title compound as a colorless oil. HRMS m/z calcd for C13H13ClN2O2 (M)+ 264.0666, found 264.0677. Anal. (C13H13ClN2O2) C, H, N.

reactant | 1-(2-methoxyphenyl)ethanol | 6.28 mmol, 0.96 g | COC1=C(C=CC=C1)C(C)O | C9H12O2
reactant | 2,6-dichloropyrazine | 5.23 mmol, 0.78 g | ClC1=NC(=CN=C1)Cl | C4H2Cl2N2
reactant | dichloromethane | ClCCl | CH2Cl2
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
solvent | dioxane | 15 mL | O1CCOCC1 | C4H8O2
product | 2-Chloro-6-[1-(2-methoxyphenyl)ethoxy]pyrazine | ClC1=NC(=CN=C1)OC(C)C1=C(C=CC=C1)OC | C13H13ClN2O2
